US09278951B2
Synthesis of 1-pentyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) was dissolved into 27 mL of acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) was added and the mixture was allowed to stir for 0.5 h. 1-bromopentane (1.1 mL, 9 mmol) was added and the solution was allowed to reflux overnight. The solution was filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) was added and the mixture was returned to reflux overnight. The mixture was then allowed to cool to room temperature, resulting in a yellow precipitate (1.793, 49% yield). 1H NMR (500 MHz, DMSO-d6) 9.66 (1H, s, NCHN), 8.02 (4H, m, Ar), 7.57 (3H, m, Ar), 5.66 (2H, s, NCH2), 4.24 (2H, t, NCH2), 1.80 (2H, tt, CH2), 1.37 (2H, tq, CH2), 0.93 (3H, t, CH3). 13C{1H} NMR (125 MHz, DMSO-d6) 136.4 (NCN), 132.8 (Ar), 132.6 (Ar), 130.0 (Ar), 128.8 (Ar), 127.8 (Ar), 127.7 (Ar), 127.6 (Ar), 126.8 (Ar), 126.7 (Ar), 125.5 (Ar), 120.9 (Ar), 114.1 (Ar), 112.9 (Ar), 51.6 (CH2), 48.5 (CH2), 27.8 (CH2), 27.4 (CH2), 21.4 (CH2), 13.6 (CH3).

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromopentane | 9 mmol, 1.1 mL | BrCCCCC | C5H11Br
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
product | 1-pentyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | 49% yield | [Br-].C(CCCC)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C19H20Cl2N2.BrH/c1-3-4-5-10-16-15-9-7-6-8-14(15)11-13(2)17(16)23-12-22-18(20)19(23)21;/h6-9,11-12H,3-5,10H2,1-2H3;1H
